US07786108B2
Step 4. Preparation of 5-Ethyl-2-[isopropoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-trifluoromethyl-benzoic acid methyl ester
Add 4-bromo-butyric acid methyl ester (74.30 g, 410.46 mmol) to a mixture of 5-ethyl-2-isopropoxycarbonylamino-4-trifluoromethyl-benzoic acid methyl ester (39.05 g, 117.16 mmol) and cesium carbonate (114.65 g, 351.88 mmol) in N,N-dimethylformamide (800 mL). Heat the mixture at 90° C. for 4 h and the allow it to cool to room temperature. Filter the mixture through Celite then dilute the mixture with water (2 L) and ethyl acetate (2 L). Wash the organic layer with water (500 mL) and brine (500 mL). Dry the organic layer over anhydrous sodium sulfate and filter. Remove the solvents under reduced pressure and purify the resulting residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (0 to 15%), to provide the title compound as a white solid (39.75 g, 78%): TLC Rf 0.42 (3:1 hexanes/ethyl acetate); 1H NMR (CDCl3, 300 MHz) δ 1.0-1.10 (m, 3H), 1.22-1.32 (m, 6H), 1.78-1.89 (m, 2H), 2.37-2.40 (m, 2H), 2.82-2.89 (m, 2H), 3.41-3.80 (m, 5H), 3.89 (s, 3H), 4.78-5.02 (m, 1H), 7.43 (s, 1H), 7.91 (s, 1H).

reactant | 4-bromo-butyric acid methyl ester | 410.46 mmol, 74.30 g | COC(CCCBr)=O | C5H9BrO2
reactant | 5-ethyl-2-isopropoxycarbonylamino-4-trifluoromethyl-benzoic acid methyl ester | 117.16 mmol, 39.05 g | COC(C1=C(C=C(C(=C1)CC)C(F)(F)F)NC(=O)OC(C)C)=O | C15H18F3NO4
reactant | cesium carbonate | 351.88 mmol, 114.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 800 mL | CN(C=O)C | C3H7NO
product | 5-Ethyl-2-[isopropoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-trifluoromethyl-benzoic acid methyl ester | 39.75 g, 78% | COC(C1=C(C=C(C(=C1)CC)C(F)(F)F)N(CCCC(=O)OC)C(=O)OC(C)C)=O | C20H26F3NO6
